US06552013B1
Preparation of 1,3-dihydro-5-ethylthio-1-methyl-2H-1,4-benzodiazepin-2-one
A solution of 1.0 mmol of 3,4-dihydro-1-methyl-1H-1,4-benzodiazepin-2,5-dione (Tett. Lett. 1994, 50(30), 9051) in 8mL dry dichloromethane (Aldrich Sure Seal), in an oven-dried round bottom flask under nitrogen cover, is treated with 1.1 equivalents of anhydrous pyridine (Mallinkrodt). The reaction is cooled to −51° C. in a dry ice/acetone bath and treated, dropwise via syringe over three minutes, with 1.1 equivalents of trifluoromethanesulfonic anhydride (Aldrich; sealed ampules). The reaction mixture is allowed to stir twenty minutes while maintaining a reaction temperature between −47 and −35° C. The temperature is brought to 0° C. over 1-2 minutes and then maintained at that temperature for one hour. Ethanethiol (3.4 equivalents) is introduced via syringe and the mixture allowed to stir overnight, still immersed in an ice water-filled Dewar. The temperature had risen to 16° C. by morning. The reaction mixture is partitioned between methylene chloride and aqueous sodium bicarbonate. The aqueous portion is further extracted three times with methylene chloride and the combined extracts dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give a yellow oil. Purification is effected by flash chromatography (silica gel; gradient elution using methylene chloride/ethyl acetate in 100/1, 95/5, 90/10 and 85/15. The title compound is obtained as a colorless oil which crystallizes on standing.

reactant | 3,4-dihydro-1-methyl-1H-1,4-benzodiazepin-2,5-dione | 1.0 mmol | CN1C(CNC(C2=C1C=CC=C2)=O)=O | C10H10N2O2
reactant | pyridine | 1.1 equivalents | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.1 equivalents | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Ethanethiol | 3.4 equivalents | C(C)S | C2H6S
solvent | dichloromethane | 8mL | ClCCl | CH2Cl2
product | 1,3-dihydro-5-ethylthio-1-methyl-2H-1,4-benzodiazepin-2-one | C(C)SC1=NCC(N(C2=C1C=CC=C2)C)=O | C12H14N2OS
